### PR TITLE
A proof of LYM inequality using probability

### PR DESCRIPTION
**Pull request by ctchou**
Per Yaël's suggestion:

https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Proof.20of.20the.20LYM.20inequality.20using.20probability.20theory

I'm contributing this proof.  I'm not sure I'm putting the file in the right directory, though.  Let me know where I should place it and I'll update the PR.

### CODE REVIEW

File: LeanCamCombi/ProbLYM.lean [hunk 1]
```diff
@@ -0,0 +1,219 @@
...
+Authors: Ching-Tsun Chou and Chris Wong
+-/
+
+import Mathlib.Data.Fintype.Perm
+import Mathlib.Probability.UniformOn
+
+/-!
+# Proof of the LYM inequality using probability theory
+
+This file contains a formalization of the proof of the LYM inequality using
```
Comment (YaelDillies) [inline LeanCamCombi/ProbLYM.lean:13]: I think you can be more concise here
```suggestion
# The LYM inequality using probability theory

This file proves the LYM inequality using
```
(with some rewrapping)

File: LeanCamCombi/ProbLYM.lean [hunk 2]
```diff
@@ -0,0 +1,219 @@
...
+
+A video of Prof. Zhao's lecture on this proof is available on YouTube:
+
+<https://youtu.be/exBXHYl4po8?si=aW8hhJ6zBrvWT1T0>
+
+The proof of Theorem 1.10, Lecture 3 in the Cambridge lecture notes on combinatorics:
+
+<https://github.com/YaelDillies/maths-notes/blob/master/combinatorics.pdf>
+
+is basically the same proof, except with probability theory stripped out.
```
Comment (YaelDillies) [inline LeanCamCombi/ProbLYM.lean:27]: Can you turn this into a `## References` section?

File: LeanCamCombi/ProbLYM.lean [hunk 3]
```diff
@@ -0,0 +1,219 @@
...
+
+@[reducible]
+def Numbering (α : Type*) [Fintype α] := α ≃ Fin (card α)
+
+@[reducible]
+def NumberingOn {α : Type*} (s : Finset α) := {x // x ∈ s} ≃ Fin s.card
+
+variable {α : Type*} [Fintype α] [DecidableEq α]
+
+theorem numbering_card : card (Numbering α) = (card α).factorial := by
```
Comment (YaelDillies) [inline LeanCamCombi/ProbLYM.lean:48]:
```suggestion
theorem cardNumbering : card (Numbering α) = (card α).factorial := by
```

File: LeanCamCombi/ProbLYM.lean [hunk 4]
```diff
@@ -0,0 +1,219 @@
...
+  exact Fintype.card_equiv (Fintype.equivFinOfCardEq rfl)
+
+omit [Fintype α] in
+theorem numbering_on_card (s : Finset α) : card (NumberingOn s) = s.card.factorial := by
```
Comment (YaelDillies) [inline LeanCamCombi/ProbLYM.lean:52]:
```suggestion
theorem card_numberingOn (s : Finset α) : card (NumberingOn s) = s.card.factorial := by
```
Same everywhere else

File: LeanCamCombi/ProbLYM.lean [hunk 5]
```diff
@@ -0,0 +1,219 @@
...
+  simp only [NumberingOn]
+  have h1 : card {x // x ∈ s} = card (Fin s.card) := by simp
+  have h2 : {x // x ∈ s} ≃ (Fin s.card) := by exact Fintype.equivOfCardEq h1
```
Comment (YaelDillies) [inline LeanCamCombi/ProbLYM.lean:55]:
```suggestion
  have h2 : {x // x ∈ s} ≃ Fin s.card := by exact Fintype.equivOfCardEq h1
```

File: LeanCamCombi/ProbLYM.lean [hunk 6]
```diff
@@ -0,0 +1,219 @@
...
+  simp [Fintype.card_equiv h2]
+
+/-- `IsPrefix s f` means that the elements of `s` precede the elements of `sᶜ`
+in the numbering `f`. -/
+def IsPrefix (s : Finset α) (f : Numbering α) :=
```
Comment (YaelDillies) [inline LeanCamCombi/ProbLYM.lean:60]:
```suggestion
def Numbering IsPrefix (s : Finset α) (f : Numbering α) :=
```
or `namespace Numbering` before

File: LeanCamCombi/ProbLYM.lean [hunk 7]
```diff
@@ -0,0 +1,219 @@
...
+
+/-- A numbering is a bijective map from a finite type or set to a Fin type
+of the same cardinality.  We cannot use the existing notion of permutations
+in mathlib because we need the special property `set_prefix_subset` below. -/
+
+@[reducible]
+def Numbering (α : Type*) [Fintype α] := α ≃ Fin (card α)
+
+@[reducible]
+def NumberingOn {α : Type*} (s : Finset α) := {x // x ∈ s} ≃ Fin s.card
```
Comment (YaelDillies) [inline LeanCamCombi/ProbLYM.lean:44]: This is equivalent to
```suggestion
def NumberingOn {α : Type*} (s : Finset α) := Numbering s
```
so I think we don't need it?

File: LeanCamCombi/ProbLYM.lean [hunk 8]
```diff
@@ -0,0 +1,219 @@
...
+      rcases x with ⟨x, hx⟩
+      rw [Finset.mem_compl] at hx
+      simp [hx]
+
+instance (s : Finset α) :
+    DecidablePred fun f ↦ (IsPrefix s f) := by
+  intro f ; exact Classical.propDecidable ((fun f ↦ IsPrefix s f) f)
+
+def SetPrefix (s : Finset α) : Finset (Numbering α) :=
+  {f | IsPrefix s f}
```
Comment (YaelDillies) [inline LeanCamCombi/ProbLYM.lean:147]:
```suggestion
def Prefixes (s : Finset α) : Finset (Numbering α) :=
  {f | IsPrefix s f}
```
(it's not a `Set`!)

**Review by YaelDillies — COMMENTED** [review]
Thank you for the PR!

Below is a first round of comments, and here are a few general remarks:
* You are not following the naming convention wrt to lowerCamelCasing definitions in lemma names and prefixing head operations (eg `foo.card` should become `card_foo` in a lemma name)
* Since it's a result from the Combinatorics course, it should go in the PlainCombi folder.
* All the numbering stuff not specific to antichains is the Katona circle method. Could you move it to a new file? (also in the PlainCombi folder)
* I dislike calling this the "probability theory" proof of LYM: It's neither probabilistic in the sense that it shows some object exists because it exists with positive probability, nor is it the only proof that manipulates probabilities.(although I can't remember which other proof I am thinking off). A better description would be that it is a double-counting argument on maximal chains passing through a point of the antichain (note that the Katona circle method is precisely double-counting with maximal chains)
* Nice work! 😁

**Comment by ctchou** [comment]
@YaelDillies, If I split out the code not related to anti-chains to a different file, what should I call it?

More generally, I may need you write the comments, since I don't know much combinatorics yet.  Currently I don't really know what terms like "double counting" and "Katona circle method" mean.

**Comment by ctchou** [comment]
@YaelDillies, I incorporated most of your comments and changed the naming convention.  However, I did not change the definition of NumberIngOn as you suggested, because the proof of the theorem `equiv_IsPrefix_Numbering2` (previously `is_prefix_equiv`) is very fragile and I do not know how much impact your suggested definition will have.

**Comment by ctchou** [comment]
I can give your NumberingOn suggestion a try today.  I didn't have time yesterday.

**Comment by ctchou** [comment]
@YaelDillies, I just pushed a new commit, in which I tried to use Numbering to define NumberingOn, as you suggested.  I was able to fix the first few failures in the proof of equiv_IsPrefix_NumberingOn2, but I got stuck on the failures on lines 100 and 107.  Without fixing them, the remaining failures cannot be fixed.  Lines 100 and 107 are in the term mode, where I don't know my way around.  I need your help on this.

**Comment by ctchou** [comment]
Instead of fixing each failure in the proof of equiv_IsPrefix_NumberingOn2, I think I'm going to prove the equivalence of the old and new definitions of NumberingOn and connect the old proof with the new definition via the equivalence.  This way I don't have to touch the tricky proof.

**Comment by YaelDillies** [comment]
"Working on it" is usually shorthand for "I have 100 lines of uncommitted edits. Please don't edit simultaneously so that we avoid conflicts" 😅

**Comment by ctchou** [comment]
OK, I'll revert my commit and wait for you.

**Comment by ctchou** [comment]
Just pushed the revert.  In the meantime, I'll play in the branch personal/ctchou/prob-lym-OLD-1, so that the PR is not impacted.

**Comment by ctchou** [comment]
In the branch personal/ctchou/prob-lym-OLD-2, `NumberingOn` is removed altogether.  I did not try to fix the proof of `equiv_IsPrefix_NumberingOn2`, but kept the old proof with its old goal and used that result to prove the new `equiv_IsPrefix_Numbering2`.

**Comment by YaelDillies** [comment]
Okay, done. Could you now do the `KatonaCircle` split?

**Comment by ctchou** [comment]
I just did the split.  I did not touch the comments, which are duplicated in both files.  I guess you want to call ProbLYM.lean some other name now.

**Comment by ctchou** [comment]
I'm a bit mystified by your code: how did you manage to get rid of `NumberingOn` without invoking the theorem Fintype.card_coe anywhere?

**Comment by YaelDillies** [comment]
> I'm a bit mystified by your code: how did you manage to get rid of `NumberingOn` without invoking the theorem Fintype.card_coe anywhere?

🧙 (I used simp)

**Comment by YaelDillies** [comment]
Not sure how that happened, but you managed to do the exact opposite split to what I had in mind. I've turned it around and golfed your proof to use `Finset.dens` instead of the much heavier probability theoretic setup (they are wholly equivalent, but the former only imports basic finiteness).

Thanks for everything! Looking forward to the next one.

**Comment by ctchou** [comment]
> Not sure how that happened, but you managed to do the exact opposite split to what I had in mind.

Because of what you wrote above:

> > If I split out the code not related to anti-chains to a different file, what should I call it?
>Keep it in the current file. Split out the rest to PlainCombi.KatonaCircle.

Either I misread your answer, or you misread my question.

**Comment by YaelDillies** [comment]
Ooh, I had read "related to antichains" instead of "not related to antichains".

**Comment by ctchou** [comment]
One more question for my education: What is the difference between `simps [...] using e` and `simps [..., e]`?  I realize that the latter doesn't work in many places where you have used the former, but I don't understand why.

**Comment by YaelDillies** [comment]
I assume you mean `simpa`, not `simps`.

`simpa [lemmas] using term` is the same as
```
have hyp := term
simp [lemmas] at hyp ⊢
exact hyp
```
You can see how this is more powerful than `simp [lemmas, term]`, because it gets to simplify `term` and also unify up to defeq at the end (instead of just synteq).

**Comment by ctchou** [comment]
Thanks for the explanation!
